US07173139B2
Hydrochloride salt of (2S,5S)-5-benzyl-2-tert-butyl-3-methyllimidazolidin-4-one (1): To a solution of ethanolic MeNH2 (8.0 M, 50 ml) was added (S)-phenylalanine methyl ester (23.0 g, 130 mmol). The resulting solution was stirred at room temperature until the amino ester was judged to be consumed by TLC analysis. The resulting solution was then concentrated to provide (S)-phenylalanine N-methyl amide (18 g, 82% yield) as a white solid. To a flask containing (S)-phenylalanine N-methyl amide (8.9 g, 50 mmol) was added THF (100 ml), trimethylacetaldehyde (5.4 g, 50 mmol), FeCl3 (1.7 g, 10 mmol) and 4Å MS (5.0 g). The resulting mixture was stirred at room temperature for 36 h, then washed with H2O (3×100 mL). The combined organics were concentrated and the resulting residue was treated with HCl (27 mL, 1N in ether). The resulting heterogeneous mixture was filtered to removed the undesired trans isomer.HCl salt and the resulting solution was concentrated. The residue was recrystallized (9:1 pentane/CH2Cl2) to provide the product (1) as a crystalline solid (2.88 g, 23% yield, >99% ee). IR (film) 3343, 2958, 1605, 1028 cm−1; 1H NMR (300 MHz, CDCl3) δ7.31−7.17 (m, 5H, ArH), 4.04 (s, 1H, NCHN), 3.72−3.65 (m, 1H, CHCH2), 3.13 (dd, J=4.1, 13.7 Hz, 1H, CH2), 2.92 (dd, J=7.7, 13.7 Hz, 1H, CH2), 2.90 (s, 3H, NCH3), 0.82 (s, 9H, C(CH3)3); 13C NMR (75 MHz, CDCl3) δ175.3, 138.0, 129.8, 128.7, 126.8, 82.7, 77.8, 77.4, 76.9, 59.7, 38.6, 35.4, 31.0, 25.7; [α]D=−39.6 (c=1.0, CHCl3). The enantiomeric ratio was determined by HPLC using a Chiralpak OD-H and OD guard column (3.0% i-PrOH/hexanes, 1 mL/min); (5S) isomer tr=16.7 min, (5R) isomer tr=20.1 min.

reactant | (S)-phenylalanine methyl ester | 130 mmol, 23.0 g | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | MeNH2 | 8.0 M, 50 ml | CN | CH5N
product | (S)-phenylalanine N-methyl amide | 18 g, 82% yield | CNC([C@@H](N)CC1=CC=CC=C1)=O | C10H14N2O
